US08431568B2
To a solution of methyl 10-cyclohexyl-2-methyl-4H-imidazo[1,2-a]indolo[1,2-d][1,4]benzodiazepine-7-carboxylate (74 mg, 0.17 mmol) in THF (3 mL) and MeOH (1.5 mL) was added aq NaOH (1.0N, 0.8 mL, 0.8 mmol). The reaction mixture was heated at 70° C. for 2 h, cooled to rt, neutralized with aq. HCl (1.0N, 0.8 mL, 0.8 mmol) and concentrated to dryness. The solid residue was dissolved into MeOH/DCM, insoluble material was removed by filtration and the filtrate was concentrated and dried under N2 to yield crude 10-cyclohexyl-2-methyl-4H-imidazo[1,2-a]indolo[1,2-d][1,4]benzodiazepine-7-carboxylic acid (60 mg, 0.15 mmol, 86%) as an off-white solid which was used without further purification. 1H NMR (300 MHz, CD3OD) δ 1.16-1.56 (m, 4H), 1.72-2.22 (m, 6H), 2.31 (s, 3H), 2.80-3.01 (m, 1H), 5.12 (d, J=16.1 Hz, 1H), 5.91 (d, J=16.1 Hz, 1H), 7.62 (s, 1H), 7.72-7.86 (m, 5H), 7.97 (d, J=8.8 Hz, 1H), 8.39 (s, 1H). LCMS: m/e 412 (M+H)+, ret time 1.65 min.

reactant | methyl 10-cyclohexyl-2-methyl-4H-imidazo[1,2-a]indolo[1,2-d][1,4]benzodiazepine-7-carboxylate | 0.17 mmol, 74 mg | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)OC)CC(=N4)C)C2=CC=C1 | C27H27N3O2
reactant | NaOH | 0.8 mmol, 1.0N, 0.8 mL | [OH-].[Na+]
reactant | HCl | 0.8 mmol, 1.0N, 0.8 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.5 mL | CO | CH4O
product | 10-cyclohexyl-2-methyl-4H-imidazo[1,2-a]indolo[1,2-d][1,4]benzodiazepine-7-carboxylic acid | 0.15 mmol, 60 mg, 86% | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)O)CC(=N4)C)C2=CC=C1 | C26H25N3O2
